US07064144B2
Under N2, a cold (−75° C.) solution of oxalyl chloride (285 mg, 2.24 mmol) in CH2Cl2 (10 ml) was treated with DMSO (0.215 ml, 3.03 mmol) and stirred for 10 min. A solution of ethyl 1-[(2S,3R)-2-(tert-butyldimethylsilyloxy)-5-hydroxy-3-pentyl]imidazole-4-carboxylate (400 mg, 1.12 mmol) in CH2Cl2 (5 ml) was slowly added, the resulting mixture was stirred for 50 min at −75 to −45° C. and finally treated with triethylamine (0.59 ml). The reaction mixture was allowed to warm to 0° C., hydrolyzed with water (10 ml) and extracted with CH2Cl2 (20 ml×2). The combined organic layers were dried over sodium sulfate and evaporated in vacuo. The residue was purified by silica gel (13 g) chromatography eluting with chloroform/methanol (100:1) to give ethyl 1-[(2S,3R)-2-(tert-butyldimethylsilyloxy)-5-oxo-3-pentyl]imidazole-4-carboxylate (370 mg, 93%) as a colorless syrup.

reactant | oxalyl chloride | 2.24 mmol, 285 mg | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMSO | 3.03 mmol, 0.215 ml | CS(=O)C | C2H6OS
reactant | ethyl 1-[(2S,3R)-2-(tert-butyldimethylsilyloxy)-5-hydroxy-3-pentyl]imidazole-4-carboxylate | 1.12 mmol, 400 mg | [Si](C)(C)(C(C)(C)C)O[C@@H](C)[C@@H](CCO)N1C=NC(=C1)C(=O)OCC | C17H32N2O4Si
reactant | triethylamine | 0.59 ml | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
solvent | water | 10 ml | O | H2O
product | ethyl 1-[(2S,3R)-2-(tert-butyldimethylsilyloxy)-5-oxo-3-pentyl]imidazole-4-carboxylate | 370 mg, 93% | [Si](C)(C)(C(C)(C)C)O[C@@H](C)[C@@H](CC=O)N1C=NC(=C1)C(=O)OCC | C17H30N2O4Si
